US08168642B2
Step 1 Preparation of 4-methylthiazol-5-carboxamide
3.3 g (20 mmol) ethyl chloroacetoacetate and 1.8 g (30 mmol) thioformamide were dissolved in 40 ml ethanol, and reacted under reflux for 8 hr, followed by removing the solvent by rotation drying; and then, ethyl acetate and water were added to separate the layers. The resultant organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated to obtain a red oily liquid. 60 ml ammonia water was directly added to the red oily liquid without purification, to carry out reaction in closed state for 24 hr. The reaction product was extracted with ethyl acetate, dried with sodium sulfate, filtered and concentrated to obtain 2.3 g of a solid (yield 82%).

reactant | ethyl chloroacetoacetate | 20 mmol, 3.3 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | thioformamide | 30 mmol, 1.8 g | C(=S)N | CH3NS
reactant | ammonia water | 60 ml | O.N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-methylthiazol-5-carboxamide | 2.3 g, yield 82% | CC=1N=CSC1C(=O)N | C5H6N2OS
